US03940395
Seven grams of 4,6-dichloro-2-phenylpyrimidine is added in small portions to 30 ml. of β-methoxyethylamine with slight warming and stirring. The resulting mixture is heated on a steam bath for several minutes and then poured into 500 ml. of water. The product thus obtained (5.1 g.) is recrystallized from n-heptane to afford 4-chloro-6-(2-methoxyethylamino)-2-phenylpyrimidine, 48.5°-50°C.

reactant | 4,6-dichloro-2-phenylpyrimidine | Seven grams | ClC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | β-methoxyethylamine | COCCN | C3H9NO
solvent | water | O | H2O
product | 4-chloro-6-(2-methoxyethylamino)-2-phenylpyrimidine | ClC1=NC(=NC(=C1)NCCOC)C1=CC=CC=C1 | C13H14ClN3O
